US04940719
Ethyl 9-benzyl-6-fluoro-1,2,3,4-tetrahydrocarbazol-1-yl-acetate
Following the procedure of Example 1, but using 1-(benzyl)-1-(4-fluorophenyl)hydrazine hydrochloride and ethyl 2-cyclohexanone acetate as starting materials, the title compound was prepared.

reactant | 1-(benzyl)-1-(4-fluorophenyl)hydrazine hydrochloride | Cl.C(C1=CC=CC=C1)N(N)C1=CC=C(C=C1)F
reactant | ethyl 2-cyclohexanone acetate | CCOC(=O)CC1CCCCC1=O | C10H16O3
product | Ethyl 9-benzyl-6-fluoro-1,2,3,4-tetrahydrocarbazol-1-yl-acetate | C(C1=CC=CC=C1)N1C2=CC=C(C=C2C=2CCCC(C12)CC(=O)OCC)F | C23H24FNO2
